US04284628
50 ml of ethanol and 1 ml of concentrated hydrochloric acid were added to 4.2 g of N-(1'-β-naphthoxy-2',2',2'-trichloroethyl)-2-acetoxybenzamide synthesized in Preparation Example 5. The whole was refluxed for about three hours. After cooling, the reaction mixture was poured into water and the resulting crystals were recrystallized from N-hexane/benzene (2:1) to obtain 2.0 g of N-(1'-β-naphthoxy-2',2',2'-trichloroethyl)-2-hydroxybenzamide as white crystals.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | N-(1'-β-naphthoxy-2',2',2'-trichloroethyl)-2-acetoxybenzamide | 4.2 g | C1=C(C=CC2=CC=CC=C12)OC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C21H16Cl3NO4
solvent | water | O | H2O
product | N-(1'-β-naphthoxy-2',2',2'-trichloroethyl)-2-hydroxybenzamide | 2.0 g | C1=C(C=CC2=CC=CC=C12)OC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C19H14Cl3NO3
